2153-01-12 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-1-11**] 08:00 PM
 URINE CULTURE - At [**2153-1-11**] 08:00 PM\
   1.       Transfused 1 U PRBCs
   2.       Bolused with 2 liter IVF
   3.       Started on protonix gtt
   small amount of coffee grounds when NG lavaged, no BM, U/O >120cc/hr.
    CT abd w/ contrast, bolused 1 L NS and 1 L D5 w/ 3 amps bicarb for
   kidney protection from CT dye load
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-1-11**] 11:00 PM
   Ciprofloxacin - [**2153-1-12**] 12:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-1-12**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 81 (81 - 110) bpm
   BP: 108/58(69) {95/40(54) - 135/100(97)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
           Total In:
                                                                    673 mL
                                                                    957 mL
   PO:
           TF:
   IVF:
                                                                    673 mL
                                                                    582 mL
   Blood products:
   375 mL
   Total out:
                                                                    660 mL
                                                                  1,145 mL
   Urine:
                                                                    660 mL
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     13 mL
                                                                   -188 mL
   Respiratory support
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   PHYSICAL EXAM
   GENERAL: Pleasant, well appearing in NAD.  Pale.  NGT with dark
   feculent material.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, tachy. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 4808**]. JVP=flat.  Slow capillary refill.
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 1+ dorsalis pedis/ posterior tibial
   pulses, chronic venous changes
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**12-23**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   230 K/uL
   8.7 g/dL
   122 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.6 mEq/L
   54 mg/dL
   113 mEq/L
   147 mEq/L
   25.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2153-1-11**]  05:15 PM
                             [**2153-1-11**]  10:05 PM
                             [**2153-1-12**]  03:42 AM
   WBC
   17.6
   14.5
   16.7
   Hct
   28.6
   23.1
   25.3
   Plt
   279
   239
   230
   Cr
   0.9
   Glucose
   122
   Other labs: PT / PTT / INR:13.6/27.1/1.2, Lactic Acid:2.5 mmol/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   KUB: nonspecific bowel gas pattern, no free air
   AB CT: right sided colitis involving cecum c/w infectious/inflammatory
   Assessment and Plan
   69 yo with no PMH who p/w three days of dark bloody vomit and melena.
   .
   #. Melena/hematemesis: appears to be upper GI source, although unclear
   how right colon findings on CT correlate.  DDx includes  UGIB (ulcer,
   malignancy, [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **]) and resulting hypotension leading to
   ischemic colitis vs. LGIB and bowel obstruction/ileus causing
   hematemesis. Lactate mildly elevated. No BM overnight and decreased
   hematemesis.
   - f/u EGD results
   - f/u final read CT
   - protonix IV drip 8mg/hr
   - empiric cipro/flagyl for possible infectious colitis
   - q 4-6 hr HCT with pRBCs prn for dropping HCT (goal >21)
   - NPO pending EGD
   - appreciate GI recs
   - send stool studies (C.dif, yersinia, salmonella, E. coli, cx)
   .
   #. Leukocytosis: neutrophil predominant.  ? stress response from
   bleeding vs. infectious colitis. No other sources obvious, CXR and UA
   neg.
   - f/u blood and urine cx
   - f/u stool studies as above
   - cipro/flagyl as above
   .
   #. ? syncopal event: CEs negative in the ED.  EKG unconcerning.
   - check orthostatics and IVF as needed
   - TTE
   - follow on telemetry
   #. ARF: given elevated BUN and history of obstruction/decreased PO,
   with improvement after hydration, likely prerenal.
   - trend Cr
   .
   #. slight anion gap metabolic acidosis: no ABG done.  Slight lactic
   acidosis from dehydration is most likely with lactate 2.5.  Ab CT
   showed right sided colitis, no concern for ischemic etiology. Anion gap
   resolved today after hydration.
   - trend lactate
   .
   #. poor medical f/u:
   - PCP outpatient
   ICU [**Name9 (PRE) 151**]
   Nutrition: NPO for endoscopy
   Glycemic Control:
   Lines:
   16 Gauge - [**2153-1-11**] 04:01 PM
   20 Gauge - [**2153-1-11**] 04:03 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole gtt
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: consider call out pending endoscopy if Hct stable

2153-01-12 11:01:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No further clinical evidnece for active GI bleed.
   Passing flattus.  No BM.
   Gradual decline in Hct overnight (Hct= 23) --> received 1 unit PRBC.
   No further presyncope, syncope.
   Overall, feels improved.  No new symptoms.
   Remains NPO.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-1-12**] 07:55 AM
   Ciprofloxacin - [**2153-1-12**] 09:02 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, bloating
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-1-12**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 85 (81 - 110) bpm
   BP: 101/59(70) {95/40(54) - 135/100(97)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
           Total In:
                                                                    673 mL
                                                                  1,393 mL
   PO:
           TF:
   IVF:
                                                                    673 mL
                                                                  1,018 mL
   Blood products:
   375 mL
   Total out:
                                                                    660 mL
                                                                  1,720 mL
   Urine:
                                                                    660 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     13 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   237 K/uL
   116 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   54 mg/dL
   111 mEq/L
   143 mEq/L
   24.5 %
   17.1 K/uL
        [image002.jpg]
                             [**2153-1-11**]  05:15 PM
                             [**2153-1-11**]  10:05 PM
                             [**2153-1-12**]  03:42 AM
                             [**2153-1-12**]  08:00 AM
                             [**2153-1-12**]  08:08 AM
   WBC
   17.6
   14.5
   16.7
   17.1
   Hct
   28.6
   23.1
   25.3
   24.5
   Plt
   279
   239
   230
   237
   Cr
   0.9
   Glucose
   122
   116
   Other labs: PT / PTT / INR:13.6/27.1/1.2, Lactic Acid:2.5 mmol/L,
   Albumin:2.6 g/dL, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   69 yom without significant PMHx, now with concern for UGI bleed.
   GI BLEED
 Evidence for upper source.  Concerns include PUD, gastritis,
   [**Doctor First Name 1862**]-[**Doctor Last Name **] tear. Less likely malignancy or varices (no stigmata of
   liver disease).   Doubt ischemic bowel (in absence of significant abd
   pain).  ABD CT scan demonstrates evidence for colitis (focal), which
   may suggest IBD.  Monitor exam, low threshold for General Surgery
   consultation.  Plan EGD this AM.
   PRESYNCOPE/SYNCOPE -- attributed to hypovolemia or vagal response to
   vomitting.  Doubt primary cardiac event, ECG without acute ischemia and
   cardiac enzymes WNL.  Monitor BP, HR, rhythm.  Check cardiac echo
   (evaluate for wall motion abnormalities, valvular heart disease, clot).
   COLITIS -- suggested by abd CT scan.  Consider ischemic bowel,
   infectious etiology (pseudomembranous) including shigella.  Not likely
   to provide etiology for UGI guiac+ material.  Continue empirical
   antimicrobials.  Perhaps secondary or unrelated but concurrent
   process.  [**Month (only) 8**] require colonoscopy.
   FLUIDS -- hypovolemia.  Plan net resussitation with iv fliuds; blood
   products as indicated.  MOnitor i/o, monitor lactic acid and Hco3.
   ACUTE RENAL FAILURE -- good urine output and improved creatinine in
   response to hydration.  LIkely hypovolemia.
   ANEMIA -- attributed to blood loss (by history & exam), but baseline
   unclear.  [**Name2 (NI) 99**] monitor serial Hct, and transfuse <30.  Monitor post
   transfusion Hct.
   ACIDOSIS -- low Hco3 with positive anion gap --> concerns include
   hypoperfusion, starvation, EtOH.  Monitor electrolytes, HCO3, lactic
   acid.  Resolved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2153-1-11**] 04:01 PM
   20 Gauge - [**2153-1-11**] 04:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-01-13 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2153-1-12**]:
   -  endoscopy showed [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **] tear at G-E jxn, not actively
   bleeding
   - GI rec'd PPI [**Hospital1 **], resume diet, needs f/u EGD with biopsies in [**2-22**]
   weeks; Hct stable, started PO diet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-1-12**] 07:55 AM
   Ciprofloxacin - [**2153-1-12**] 09:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-1-12**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-1-13**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 78 (75 - 93) bpm
   BP: 97/57(66) {94/52(63) - 115/65(73)} mmHg
   RR: 15 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,757 mL
                                                                    298 mL
   PO:
                                                                    360 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,672 mL
                                                                    118 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,760 mL
                                                                    410 mL
   Urine:
                                                                  2,760 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   8.0 g/dL
   93 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.1 mEq/L
   21 mg/dL
   109 mEq/L
   139 mEq/L
   23.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2153-1-11**]  05:15 PM
                             [**2153-1-11**]  10:05 PM
                             [**2153-1-12**]  03:42 AM
                             [**2153-1-12**]  08:00 AM
                             [**2153-1-12**]  08:08 AM
                             [**2153-1-12**]  01:51 PM
                             [**2153-1-12**]  10:25 PM
                             [**2153-1-13**]  05:09 AM
   WBC
   17.6
   14.5
   16.7
   17.1
   13.5
   11.4
   Hct
   28.6
   23.1
   25.3
   24.5
   25.0
   24.1
   23.8
   Plt
   279
   239
   230
   237
   193
   200
   Cr
   0.9
   0.7
   Glucose
   122
   116
   93
   Other labs: PT / PTT / INR:13.6/27.1/1.2, Lactic Acid:2.5 mmol/L,
   Albumin:2.6 g/dL, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69 yo with no PMH who p/w three days of dark bloody vomit and melena.
   .
   #. Melena/hematemesis: appears to be upper GI source, although unclear
   how right colon findings on CT correlate.  [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **] tear was
   discovered on EEG.  Likely resulted in hypotension leading to ischemic
   colitis vs. LGIB and bowel obstruction/ileus causing hematemesis.
   Lactate mildly elevated. No more bloody BMs or hematemesis today.
   - f/u EGD results
   - f/u final read CT
   1. Right-sided colitis involving the proximal cecum. Finding is
   nonspecific
   and could be related to infection or inflammation. Right-sided
   distribution
   raises possibility of more atypical infections such as Yersinia or
   Salmonella.
   The patient is not neutropenic, which excludes possibility of
   typhlitis.
   2. If there is concern for a gastrocolonic fistual, this would be
   better
   evaluated with upper GI.
   - protonix [**Hospital1 **]
   - DC
d abx
   - q 4-6 hr HCT with pRBCs prn for dropping HCT (goal >21)
   - Eating well
   - appreciate GI recs
   .
   #. Leukocytosis: neutrophil predominant.  ? stress response from
   bleeding vs. infectious colitis. No other sources obvious, CXR and UA
   neg.
   - f/u blood and urine cx
   - WBC is falling, stopped abx
   .
   #. ? syncopal event: CEs negative in the ED.  EKG unconcerning.
   - check orthostatics and IVF as needed
   - TTE
   - follow on telemetry
   #. ARF: Improving given elevated BUN and history of
   obstruction/decreased PO, with improvement after hydration, likely
   prerenal.
   - trend Cr
   .
   #. slight anion gap metabolic acidosis: no ABG done.  Slight lactic
   acidosis from dehydration is most likely with lactate 2.5.  Ab CT
   showed right sided colitis, no concern for ischemic etiology. Anion gap
   resolved today after hydration.
   - trend lactate
   .
   #. poor medical f/u:
   - PCP outpatient
   ICU [**Name9 (PRE) 151**]
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2153-1-11**] 04:01 PM
   20 Gauge - [**2153-1-11**] 04:03 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole gtt
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: Call out

2153-01-13 11:54:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, hematemesis
   HPI:
   See H&P for details.
   24 Hour Events:
 ENDOSCOPY
 [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **] tear at GE junction on EGD
 TRANSTHORACIC ECHO
 Started on POs
 Continued small amounts of melena
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-1-12**] 07:55 AM
 Now d/c
   Ciprofloxacin - [**2153-1-12**] 09:02 AM
 Now d/c
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix)
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-1-13**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 78 (75 - 86) bpm
   BP: 103/55(67) {96/52(63) - 115/65(73)} mmHg
   RR: 17 (9 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,757 mL
                                                                  1,143 mL
   PO:
                                                                    360 mL
                                                                  1,020 mL
   TF:
   IVF:
                                                                  2,672 mL
                                                                    123 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,760 mL
                                                                    410 mL
   Urine:
                                                                  2,760 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Pale
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 2+ DP and radial pulses bilat
   Respiratory / Chest: (Breath Sounds: Clear w/symmetric excursion
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   Person, place, time, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   200 K/uL
   93 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.1 mEq/L
   21 mg/dL
   109 mEq/L
   139 mEq/L
   23.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2153-1-11**]  05:15 PM
                             [**2153-1-11**]  10:05 PM
                             [**2153-1-12**]  03:42 AM
                             [**2153-1-12**]  08:00 AM
                             [**2153-1-12**]  08:08 AM
                             [**2153-1-12**]  01:51 PM
                             [**2153-1-12**]  10:25 PM
                             [**2153-1-13**]  05:09 AM
   WBC
   17.6
   14.5
   16.7
   17.1
   13.5
   11.4
   Hct
   28.6
   23.1
   25.3
   24.5
   25.0
   24.1
   23.8
   Plt
   279
   239
   230
   237
   193
   200
   Cr
   0.9
   0.7
   Glucose
   122
   116
   93
   Other labs: PT / PTT / INR:13.6/27.1/1.2, Lactic Acid:2.5 mmol/L,
   Albumin:2.6 g/dL, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   TTE
 EF 60%, no significant valvular disease
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **] tear on
   EGD.  Unclear what precipitated nausea/vomiting, concern for viral
   gastroenteritis vs ischemic colitis as inciting event.  Hct has been
   stable and no evidence of active bleeding on EGD.  Have stopped
   antibiotics at GI
s recommendation.
   - Continue PPI, trend Hct
   - Needs repeat EGD as an outpatient
   - Advance diet as tolerated
   - Follow abd exam
   - Appreciated GI input
   - Will need age appropriate cancer screening as an outpatient, primary
   care doctor.
   ICU Care
   Nutrition: Oral diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2153-1-11**] 04:01 PM
   20 Gauge - [**2153-1-11**] 04:03 PM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  With Patient
   Code status: Full code
   Disposition : Call out
   Total time spent: 30minutes